US04088771
1-methyl-4,5-dihydro-5-(4-hexylphenyl)-2-methoxycarbonylaminoimidazole;
Similarly, by following the same procedure of part A but respectively replacing the β-methylamino-β-(2-methylphenyl)-ethylamine with other β-alkylamino-β-phenylethylamino or β-alkylamino-(substituted phenyl)-ethylamino such as β-ethylamino-β-phenylethylamine β-isopropylamino-β-(substituted phenyl)-ethylamine, β-t-butylamino-β-(substituted phenyl)-ethylamine, β-isoamylamino-β-(substituted phenyl)-ethylamine, β-2'-t-butylethylamino-β-(substituted phenyl)-ethylamine, or β-n-hexylamino-β-(substituted phenyl)-ethylamine, the corresponding 1-alkyl-4,5-dihydro-5-(substituted phenyl)-2-methoxycarbonylaminoimidazole or 1-alkyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazoles such as 1-ethyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazole, m.p. 115°-116° C;

reactant | β-methylamino-β-(2-methylphenyl)-ethylamine | CNC(CN)C1=C(C=CC=C1)C | C10H16N2
reactant | 1-ethyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazole | C(C)N1C(=NCC1C1=CC=CC=C1)NC(=O)OC | C13H17N3O2
product | 1-methyl-4,5-dihydro-5-(4-hexylphenyl)-2-methoxycarbonylaminoimidazole | CN1C(=NCC1C1=CC=C(C=C1)CCCCCC)NC(=O)OC | C18H27N3O2
